US08895547B2
C-(3-Benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide
Under inert gas, 4.89 g of (3-benzyloxyphenyl)methanesulfonyl chloride were initially charged in 50 ml of THF, then, at a temperature of −20° C., 3.00 ml of 2,4-dimethoxybenzylamine were added dropwise and the reaction solution was allowed to come to 0° C. within 30 minutes. The reaction solution was diluted with 80 ml of ethyl acetate and washed with water, with 10% aqueous potassium hydrogensulfate solution, saturated aqueous sodium hydrogencarbonate solution and saturated sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined, concentrated by rotary evaporation and dried under high vacuum. This gave the product (3.12 g) with a molecular weight of 427.5 g/mol (C23H25NO5S).

reactant | (3-benzyloxyphenyl)methanesulfonyl chloride | 4.89 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)Cl | C14H13ClO3S
reactant | 2,4-dimethoxybenzylamine | 3.00 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | C-(3-Benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 3.12 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C23H25NO5S
